US04043937
360 g of L-ascorbic acid in 1000 ml of formic acid are treated in a pressure vessel at 50° C with 145 g of hydrogen chloride gas in such a manner that the dosage velocity amounts to about 6.6 g per hour and the pressure amounts to about 0.4 to 0.6 atmospheres. Subsequently, the black mass obtained is evaporated at 60° C to a thick, pitch-like paste. This paste is stirred with about 2 liters of water at 60° C for 30 minutes. Subsequently, the water is evaporated off at 60° C under reduced pressure. The solid residue obtained is again dissolved in 2 liters of water, stirred at 60° C for 30 minutes and evaporated to dryness under reduced pressure at this temperature. This procedure is repeated once again. The residue is dissolved in 1.4 liters of water and extracted at room temperature 6 times with 1 liter of ethyl acetate each time. The combined ethyl acetate extracts are stirred with 20 g of active carbon for 15 minutes and subsequently filtered. The filtrate is freed from entrained water, dried over about 200 g of sodium sulfate, filtered and evaporated under reduced pressure at 40° C. The residue is dissolved in 600 ml of nitromethane at 80° C and filtered. The filter residue is back-washed with 100 ml of hot nitromethane (80° C). The combined nitromethane solutions are cooled to room temperature and the crystals obtained are filtered off. The crystals are dissolved at 80° C in 600 ml of nitromethane, treated with 5 g of active carbon and, after stirring for about 15 minutes at 80° C, filtered. The filter residue is washed with 100 ml of hot nitromethane (80° C). The combined nitromethane solutions are left to stand overnight at room temperature. The crystals obtained are filtered off and dissolved in 600 ml of nitromethane at about 70° C, treated with 5 g of active carbon and, after stirring for 15 minutes, filtered. The filter residue is washed with 100 ml of hot nitromethane (60° C). The combined nitromethane solutions are left to stand overnight at room temperature. The white crystals obtained are filtered off, dispersed in 100 mls of nitromethane and subsequently filtered. The thus-purified crystals are dried at 60° C under reduced pressure and further dried at 60° C for 48 hours under strongly reduced pressure (about 0.3 mmHg). There is obtained 6-chloro-6-deoxy-L-ascorbic acid of melting point 144° C.

reactant | L-ascorbic acid | 360 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | hydrogen chloride | 145 g | Cl | ClH
solvent | formic acid | 1000 ml | C(=O)O | CH2O2
solvent | water | 2 liters | O | H2O
product | 6-chloro-6-deoxy-L-ascorbic acid | ClC[C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O | C6H7ClO5
